US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) obtained from Referential Example 7 was suspended in methanol (20 ml), 1-bromo-3-methyl-2-butene (1.18 g) and potassium carbonate (997 mg) were added, the mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure, water (100 ml) was added, and extracted with methylene chloride. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 1.85 g of the titled compound (Yield: 71.4%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 1-bromo-3-methyl-2-butene | 1.18 g | BrCC=C(C)C | C5H9Br
reactant | potassium carbonate | 997 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.85 g, Yield: 71.4% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)CC=C(C)C)NC(=O)OC(C)(C)C | C20H29N3O3
